US03971772
A solution of 2-methyl-3-diazo-1-propene in 150 ml of ether (prepared from 0.1 mole of N-(2-methyl-2-propenyl)-ethyl carbamate by the method of J. L. Brewbaker and H. Hart, J. Am. Chem., Soc., 91, 711 (1969)) is diluted with 50 ml of methanol and cooled to 0°C. A total of 7 g of 21-chloro-9-fluoro-11β,16α,17-trihydroxypregna-1,4diene-3,20-dione, 16,17-cycloborate is added in portions until nitrogen evolution ceases. The solvent is removed in vacuo and the residue is dissolved in chloroform and chromatographed on an 80 g -silica gel column. Elution with chloroform gives TLC pure material which crystallizes from acetone-hexane to give 5.4 g of 21-chloro-9-fluoro-11β,17 -dihydroxy-16α-[(2-methyl-2-propenyl)oxy]pregna-1,4-diene-3,20-dione, melting point 238°-240°C.

reactant | 2-methyl-3-diazo-1-propene | CC(=C)C=[N+]=[N-] | C4H6N2
reactant | 21-chloro-9-fluoro-11β,16α,17-trihydroxypregna-1,4diene-3,20-dione | 7 g | ClCC([C@]1([C@@H](C[C@H]2[C@@H]3CCC4=CC(C=C[C@]4(C)[C@]3([C@H](C[C@]12C)O)F)=O)O)O)=O | C21H26ClFO5
solvent | ether | 150 ml | CCOCC | C4H10O
solvent | methanol | 50 ml | CO | CH4O
product | 21-chloro-9-fluoro-11β,17 -dihydroxy-16α-[(2-methyl-2-propenyl)oxy]pregna-1,4-diene-3,20-dione | 5.4 g | ClCC([C@]1([C@@H](C[C@H]2[C@@H]3CCC4=CC(C=C[C@]4(C)[C@]3([C@H](C[C@]12C)O)F)=O)OCC(=C)C)O)=O | C25H32ClFO5
